US07902375B2
AG2) 2-Fluoro-5-(2-oxo-propyl)-benzenesulfinic acid sodium salt
To a stirred solution of 2-fluoro-5-(2-oxo-propyl)-benzenesulfonyl chloride (AG1) (16.25 g, 86.36 mmol) in dioxane (200 ml) is added dropwise a solution of sodium sulfite (16.38 g, 130 mmol) and sodium hydrogen carbonate (10.92 g, 130 mmol) in water (200 ml). The reaction mixture is heated to 70° C. for 20 minutes and then allowed to cool to room temperature. The solvent is removed in vacuo and the resultant residue is used crude in the next step.

reactant | 2-fluoro-5-(2-oxo-propyl)-benzenesulfonyl chloride | 86.36 mmol, 16.25 g | FC1=C(C=C(C=C1)CC(C)=O)S(=O)(=O)Cl | C9H8ClFO3S
reactant | sodium sulfite | 130 mmol, 16.38 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 130 mmol, 10.92 g | C(O)([O-])=O.[Na+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 2-Fluoro-5-(2-oxo-propyl)-benzenesulfinic acid sodium salt | [Na+].FC1=C(C=C(C=C1)CC(C)=O)S(=O)[O-] | InChI=1S/C9H9FO3S.Na/c1-6(11)4-7-2-3-8(10)9(5-7)14(12)13;/h2-3,5H,4H2,1H3,(H,12,13);/q;+1/p-1
